US05202466
To a suspension of 5.7 g of (S)-2-amino-7-carbethoxymethoxytetraline hydrochloride, 3 g of (R)-mandelic acid and 8 g of benzotriazolyl-N-oxytris(dimethylamino)phosphonium hexafluorophosphate (BOP) in 100 ml of anhydrous methylene chloride, there is slowly added 5.6 ml of triethylamine, then the solution thus obtained is left under stirring at room temperature for 5 hours. After addition of 150 ml of a saturated solution of sodium chloride, the mixture is left under stirring for 30 minutes at room temperature, added with 500 ml of ethyl acetate. The organic phase is washed at first with a 1N solution of hydrochloric acid, then with a saturated solution of sodium bicarbonate and sodium chloride. The organic solution is dried on sodium sulfate, filtered and evaporated to dryness. The oil thus obtained is purified by flash chromatography by using a mixture of ethyl acetate/cyclohexane 55/45 as a solvent. The resulting solid is triturated in 20 ml of ethyl ether and the product thus obtained is crystallized from ethyl acetate to give N-[(2S)-7-carbethoxymethoxy-1,2,3,4 -tetrahydronaphth-2-yl]-(R)-mandelamide; m.p. 115°-117° C.; /alpha/=-98.3° (methanol, c=1%). Yield: 55%.

reactant | (S)-2-amino-7-carbethoxymethoxytetraline hydrochloride | 5.7 g | Cl.N[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)OCC
reactant | (R)-mandelic acid | 3 g | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-[(2S)-7-carbethoxymethoxy-1,2,3,4 -tetrahydronaphth-2-yl]-(R)-mandelamide | Yield: 55% | C(=O)(OCC)COC1=CC=C2CC[C@@H](CC2=C1)NC([C@H](O)C1=CC=CC=C1)=O | C22H25NO5
